US08026257B2
Osmium tetroxide (0.1 mL, 0.013 mmol) (4% in water) was added to a solution of 5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-7-vinyl-1H-indole-3-carbonitrile (385 mg, 1.157 mmol) and NMO (271 mg, 2.313 mmol) in Acetone (20 mL) and Water (5 mL). The reaction was stirred at ambient temperature for 2 hours and then THF (10 mL) and sodium periodate (742 mg, 3.47 mmol) were added. The reaction was stirred for 1 hour, and precipitate formed. The solvent was evaporated and the residue was taken up in water (100 mL) and extracted with ethyl acetate (3×20 mL). The organic layers were dried with MgSO4 and evaporated. The residue was purified by chromatography on SiO2 with 10% to 15% ethyl acetate/hexanes to give 5-chloro-7-formyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-3-carbonitrile (310 mg, 0.926 mmol, 80% yield) as a white solid. 1H-NMR (CDCl3, 400 MHz) δ 10.22 (s, 1H), 8.0 (d, J=2.0 Hz, 1H), 7.84 (d, J=2.0 Hz, 1H), 7.79 (s, 1H), 5.80 (s, 2H), 3.43 (app T, J=8.2 Hz, 2H), 0.84 (app t, J=8.2 Hz, 2H), −0.07 (s, 9H). LC (HPLC method 4): tR=3.68 min.

reactant | 5-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-7-vinyl-1H-indole-3-carbonitrile | 1.157 mmol, 385 mg | ClC=1C=C2C(=CN(C2=C(C1)C=C)COCC[Si](C)(C)C)C#N | C17H21ClN2OSi
reactant | NMO | 2.313 mmol, 271 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | sodium periodate | 3.47 mmol, 742 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | Acetone | 20 mL | CC(=O)C | C3H6O
solvent | Water | 5 mL | O | H2O
catalyst | Osmium tetroxide | 0.013 mmol, 0.1 mL | [Os](=O)(=O)(=O)=O
product | 5-chloro-7-formyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-3-carbonitrile | 0.926 mmol, 310 mg, 80% yield | ClC=1C=C2C(=CN(C2=C(C1)C=O)COCC[Si](C)(C)C)C#N | C16H19ClN2O2Si
